US06110934
5-Pivaloyl-2-methoxy Benzoic Acid
5-Pivaloyl-2-methoxy benzyl alcohol (1.19 g, 5.35 mmol) was dissolved in dioxane (20 ml). A solution of KOH (0.449 g, 8.025 mmol in water (5 ml) was added followed by KMnO4 (1.69 g, 10.7 mmol). The mixture was allowed to stir at room temperature over the weekend. The solution was filtered through Celite and extracted with ether. The aqueous phase was acidified with dil. HCl and extracted with ether (3×50 ml). The organic layer was dried over magnesium sulphate and concentrated in vacuo to afford the title compound as a white solid (1.06 g).

reactant | 5-Pivaloyl-2-methoxy benzyl alcohol | 5.35 mmol, 1.19 g | C(C(C)(C)C)(=O)C=1C=CC(=C(CO)C1)OC | C13H18O3
reactant | KOH | [OH-].[K+]
reactant | KMnO4 | 10.7 mmol, 1.69 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 5-Pivaloyl-2-methoxy Benzoic Acid | 1.06 g | C(C(C)(C)C)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C13H16O4
